US09079880B2
Heat a suspension of 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid methyl ester (0.42 g, 1.30 mmol) in a 1:1 mixture of MeOH:water (10 mL) to 50° C. and add sodium hydroxide (1.0 mL, 2.5 mmol) as a 10% aqueous solution. Stir the mixture at 50° C. for 1 h during which time all of the solids dissolve. Cool the reaction mixture to room temperature and adjust the pH of the mixture to approximately pH 5 by the addition of a 2 N solution of hydrochloric acid. Dilute the mixture with water and extract with methylene chloride. Dry the combined organic phase over anhydrous sodium sulfate and concentrate under reduced pressure to provide 0.38 g of 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid as a foam.

reactant | 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid methyl ester | 1.30 mmol, 0.42 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(NC1=CC=C(C=C1)C#N)=O)=O | C18H16N2O4
reactant | MeOH | CO | CH4O
reactant | sodium hydroxide | 2.5 mmol, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-[(S)-1-(4-cyano-phenylcarbamoyl)-ethoxy]-benzoic acid | 0.38 g | C(#N)C1=CC=C(C=C1)NC(=O)[C@H](C)OC=1C=C(C(=O)O)C=CC1 | C17H14N2O4
